US09034900B2
Step 1: N-(2-bromo-4-methylsulfonylphenyl)oxolan-3-amine
A mixture of 2-bromo-1-fluoro-4-methylsulfonylbenzene (0.8 g, 3.16 mmol), oxolan-3-amine (1.38 g, 15.8 mmol) and K2CO3 (0.87 g, 6.32 mmol) in DMSO (15 mL) was stirred at 100° C. for 5 hrs. It was cooled to r.t. and water (50 mL) was added. The mixture was extracted with EtOAc (50 mL×3) and the combined organic layers were washed with brine (50 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (PE:EA=50:13:1) to give the title compound (0.7 g, yield: 69.16%). 1H NMR (CDCl3, 400 MHz) δ 8.00 (d, J=1.2 Hz, 1H), 7.74 (d, J=8.8 Hz, 1H), 6.67 (d, J=8.8 Hz, 1H), 5.03 (d, J=6.4 Hz, 1H), 4.23-4.13 (m, 1H), 4.07-3.98 (m, 2H), 3.96-3.87 (m, 1H), 3.83-3.76 (m, 1H), 3.03 (s, 3H), 2.43-2.32 (m, 1H), 1.98-1.88 (m, 1H). LCMS (M+H)+=320.0 (M+H)+, 322.0

reactant | 2-bromo-1-fluoro-4-methylsulfonylbenzene | 3.16 mmol, 0.8 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)F | C7H6BrFO2S
reactant | oxolan-3-amine | 15.8 mmol, 1.38 g | O1CC(CC1)N | C4H9NO
reactant | K2CO3 | 6.32 mmol, 0.87 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | N-(2-bromo-4-methylsulfonylphenyl)oxolan-3-amine | 0.7 g, yield: 69.16% | BrC1=C(C=CC(=C1)S(=O)(=O)C)NC1COCC1 | C11H14BrNO3S
